US06562811B1
To a cold (0° C.) mixture of 3-aminocyclohexane-carboxylic acid (10.0 g, 69.8 mmol) in 1,4-dioxane (100 mL) and 2N NaOH (100 mL) was added di(tert-butyl) dicarbonate (15.2 g, 69.8 mmol). The mixture was stirred at room temperature for 1.5 hrs, and then neutralized with 2N HCl. The resulting mixture was concentrated under reduced pressure. The residue was acidified with 2N HCl and extracted with ethyl acetate. The separated organic phase was washed with brine, dried over Na2SO4, filtered and evaporated. The residual solid was triturated with hexane, collected by filtration, and dried under reduced pressure to give 3-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylic acid as a white solid (8.00 g, yield; 47%).

reactant | 3-aminocyclohexane-carboxylic acid | 69.8 mmol, 10.0 g | NC1CC(CCC1)C(=O)O | C7H13NO2
reactant | di(tert-butyl) dicarbonate | 69.8 mmol, 15.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 2N | Cl | ClH
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | NaOH | 2N, 100 mL | [OH-].[Na+]
product | 3-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylic acid | 8.00 g, yield; 47% | C(C)(C)(C)OC(=O)NC1CC(CCC1)C(=O)O | C12H21NO4
